US04975439
To a stirred suspension of 3.97 parts of cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-(4-oxopentyl)-4-piperidinyl]benzamide in 19.2 parts of ethanol was added first a solution of 0.72 parts of potassium cyanide in 12 parts of water and then 2.88 parts of ammonium carbonate. The whole was stirred overnight at about 55° C. After cooling, the reaction mixture was poured into water. Ethanol was evaporated whereupon a precipitate was formed. It was filtered off, washed with water and boiled twice in acetonitrile. The product was filtered off and crystallized from 4-methyl-2-pentanone, yielding 1.25 parts (26.7%) of cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[3-(4-methyl-2,5-dioxo-4-imidazolidinyl)propyl]-4-piperidinyl]benzamide; mp. 235.8° C. (compound 90).

reactant | cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-(4-oxopentyl)-4-piperidinyl]benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC(C)=O)OC)C=C1Cl)OC | C19H28ClN3O4
reactant | ethanol | C(C)O | C2H6O
reactant | potassium cyanide | [C-]#N.[K+]
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | water | O | H2O
product | cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[3-(4-methyl-2,5-dioxo-4-imidazolidinyl)propyl]-4-piperidinyl]benzamide | 26.7% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC2(NC(NC2=O)=O)C)OC)C=C1Cl)OC | C21H30ClN5O5
